US04835284
97% sodium hydroxide 8.2 g was added to methanol 100 ml, and the mixture was stirred at 65° C. for 30 minutes. After cooling to 50° C., 2-nitro-4-chloro-2'-hydroxy-3'-t-butyl-5'-methylazobenzene 11.6 g was added to the resultant mixture over 30 minutes, and thereafter 2,3-dichloro-1,4-naphthoquinone 0.7 g was added. Glucose 4 g was then added to the resultant mixture at 40° to 45° C. over one hour, and the mixture was further stirred for one hour at 40° to 45° C. As this result, almost all of the azobenzene disappeared to produce 2-(2'-hydroxy-3'-t-butyl-5'-methylphenyl)-5-chlorobenzotriazole-N-oxide.

reactant | sodium hydroxide | 8.2 g | [OH-].[Na+]
reactant | 2-nitro-4-chloro-2'-hydroxy-3'-t-butyl-5'-methylazobenzene | 11.6 g | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)N=NC1=C(C(=CC(=C1)C)C(C)(C)C)O | C17H18ClN3O3
reactant | 2,3-dichloro-1,4-naphthoquinone | 0.7 g | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
reactant | Glucose | 4 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
solvent | methanol | 100 ml | CO | CH4O
product | 2-(2'-hydroxy-3'-t-butyl-5'-methylphenyl)-5-chlorobenzotriazole-N-oxide | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=[N+]1[O-])C=CC(=C2)Cl | C17H18ClN3O2
